US07662845B2
b) [2-(4-Bromo-phenyl)-propyl]-carbamic acid tert-butyl ester
2-(4-Bromo-phenyl)-propylamine (18.7 mmol, 4 g) was dissolved in 50 mL THF (dry, mol sieves) and di-tert-butyl dicarbonate (1.2 eq 23 mmol 5 g) was added slowly. The reaction mixture was stirred at room temperature for 1 hour before it was diluted with 300 mL ethyl acetate and washed with 300 mL sat. NaHCO3/aq. The organic phase was dried over Na2SO4, filtrated and evaporated to dryness.

reactant | 2-(4-Bromo-phenyl)-propylamine | 18.7 mmol, 4 g | BrC1=CC=C(C=C1)C(CN)C | C9H12BrN
reactant | di-tert-butyl dicarbonate | 23 mmol, 5 g, 1.2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | [2-(4-Bromo-phenyl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(C)C1=CC=C(C=C1)Br)=O | C14H20BrNO2
